US05025031
2-(2-Methoxyphenoxy)propanedioic acid diethyl ester
To a solution of 6.9 g (0.3 mole) of sodium pellets dissolved in 400 ml of absolute ethanol was successively added a solution of 37.9 g (0.305 mole) of guaiacol in 50 ml of ethanol followed by a solution of 68.1 g(0.35 mole) of diethylchloromalonate in 50 ml of ethanol. The mixture was heated at reflux for 28 hr and then stirred at ambient temperature for 3 days. The mixture was filtered and the filtrate was concentrated. The residue was partitioned between salt water and ethyl ether. The layers were separated and the aqueous layer was extracted twice with 150 ml portions of ethyl ether. The combined organic layers were washed with brine, dried (sodium sulfate) and concentrated to give a yellow oil. The oil was subjected to vacuum distillation and 66.6 g (79%) of the title compound was collected as a clear oil, bp 136°-153° C. at 0.3 mm.

reactant | sodium | 0.3 mole, 6.9 g | [Na] | Na
reactant | guaiacol | 0.305 mole, 37.9 g | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | diethylchloromalonate | 0.35 mole, 68.1 g | C(C)OC(C(C(=O)OCC)Cl)=O | C7H11ClO4
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-Methoxyphenoxy)propanedioic acid diethyl ester | C(C)OC(C(C(=O)OCC)OC1=C(C=CC=C1)OC)=O | C14H18O6
